US05604237
4-[2-(2,3-Dihydro-5,6-dimethoxy-1H-isoindol-2-yl)ethyl]benzenamine
4,5-Bischloromethyl veratrol (2.35 g: S. H. Wood, M. A. Peny and C. C. Tung, J. A. C. S. (1950), 72, 2989-2991) was added at room temperature to a stirred suspension of 50% aqueous sodium hydroxide (5 ml), toluene (25 ml), 4-aminophenylethylamine (1.5 g) and Aliquat (0.2 g). The heterogeneous mixture was stirred at room temperature for 16 hours, poured in water and extracted with methylene chloride. The organic layer was dried and the solvent evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with methylene dichloride/methanol (95:5) to give the title compound as a solid (0.6 g), MP: 150°. NMR includes signals at d 2.7(4H,m,Ph--CH2 --CH2 --N); 4.6(2H,bs,NH2); 3.7(6H,s,2×OCH3); 3.8(4H,s,2×N--CH2Ph); 6.2-7.0(6H,m,aromatics).

reactant | 4,5-Bischloromethyl veratrol | ClCC=1C=C(C(=CC1CCl)OC)OC | C10H12Cl2O2
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-aminophenylethylamine | 1.5 g | NC1=CC=C(C=C1)CCN | C8H12N2
solvent | water | O | H2O
product | 4-[2-(2,3-Dihydro-5,6-dimethoxy-1H-isoindol-2-yl)ethyl]benzenamine | 0.6 g | COC=1C=C2CN(CC2=CC1OC)CCC1=CC=C(C=C1)N | C18H22N2O2
